US07884124B2
To a stirred suspension of NaH (125 mg, 3.12 mmol, 60% dispersion in mineral oil) in THF (10 mL), was added dropwise over 5 min, a solution of 1H-pyrazole-4-carbaldehyde (250 mg, 2.60 mmol) in THF (5 mL). The mixture was stirred at rt for 45 min; sodium iodide (10 mg) was added before the addition of phenethyl bromide (0.42 mL, 3.12 mmol). After 15 min, the reaction was heated at 80° C. for 4 h, then cooled to rt, quenched with saturated solution of NH4Cl and extracted with EtOAc (3×50 mL). The combined organic layers were washed with water, brine, dried (Na2SO4), filtered and concentrated. Purification by flash chromatography (Isco CombiFlash) 0-40% EtOAc/heptane provided 1-phenethyl-1H-pyrazole-4-carbaldehyde: Yield 410 mg (79%). 1H NMR (400 MHz, CDCl3) δ ppm 3.20 (t, J=7.03 Hz, 2H), 4.39 (t, J=7.05 Hz, 2H), 7.06 (dd, J=7.91, 1.46 Hz, 2H), 7.22-7.32 (m, 3H), 7.63 (s, 1H), 8.00 (s, 1H), 9.79 (s, 1H); LCMS-MS (ESI+) 200.87 (M+H).

reactant | NaH | 3.12 mmol, 125 mg | [H-].[Na+]
reactant | 1H-pyrazole-4-carbaldehyde | 2.60 mmol, 250 mg | N1N=CC(=C1)C=O | C4H4N2O
reactant | sodium iodide | 10 mg | [I-].[Na+]
reactant | phenethyl bromide | 3.12 mmol, 0.42 mL | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-phenethyl-1H-pyrazole-4-carbaldehyde | C(CC1=CC=CC=C1)N1N=CC(=C1)C=O | C12H12N2O
